US06498169B1
Synthesis of Ethyl 2-(3,4,5-Trimethoxyphenyl)nicotinate
3,4,5-Trimethoxyphenylboronic acid (694 mg) and ethyl 2-chloronicotinate (608 mg) were reacted in the same manner as described in Preparation Example 1 to give the title compound.

reactant | 3,4,5-Trimethoxyphenylboronic acid | 694 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | ethyl 2-chloronicotinate | 608 mg | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
product | Ethyl 2-(3,4,5-Trimethoxyphenyl)nicotinate | COC=1C=C(C=C(C1OC)OC)C1=C(C(=O)OCC)C=CC=N1 | C17H19NO5
